US09255217B2
N-[[4,6-bis[[(1,3-dimethylimidazolidin-2-ylidene)amino]oxy]-1,3,5-triazin-2-yl]oxy]-1,3-dimethyl-imidazolidin-2-imine
To a cold (0° C.) solution of 1,3-dimethyl-2-imidazolidinone oxime (prepared according Kitamura, Mitsuru; Chiba, Shunsuke; Narasaka, Koichi, Bulletin of the Chemical Society of Japan (2003), 76(5), 1063-1070) (5.3 g, 0.041 mol) in dry pyridine (25 ml) within 15 minutes is dropwise added cyanuric fluoride (1.49 g, 0.011 mol). The mixture is then heated for 2 h at 42° C. and then stirred for 15 h at room temperature. The pyridine is evaporated under reduced pressure, the residue is chromatographed (silica gel, CH2Cl2—CH3OH 20:1 to 10:1) and the pure fractions are crystallized from ethyl acetate hexane to afford 2.4 g of the title compound as white crystalls, mp. 143-145° C. (decomposition).

reactant | 1,3-dimethyl-2-imidazolidinone oxime | CN1C(N(CC1)C)=NO | C5H11N3O
reactant | cyanuric fluoride | 0.011 mol, 1.49 g | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | N-[[4,6-bis[[(1,3-dimethylimidazolidin-2-ylidene)amino]oxy]-1,3,5-triazin-2-yl]oxy]-1,3-dimethyl-imidazolidin-2-imine | 2.4 g | CN1C(N(CC1)C)=NOC1=NC(=NC(=N1)ON=C1N(CCN1C)C)ON=C1N(CCN1C)C | C18H30N12O3
